US08003785B2
A mixture of 0.045 g (0.1 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid (I-22), 0.042 g (0.110 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 0.052 ml (0.300 mmole) of ethyldiisopropyl amine and 1.0 mL of dimethylformamide was stirred for 5 minutes and then 0.015 g (0.12 mmole) 2-(1-methyl-pyrrolidin-2-yl)-ethylamine was added. The mixture was stirred for 3 hours, then diluted with 10 mL of water plus 2 mL of saturated aqueous sodium bicarbonate and then extracted 3 times with 10 mL of ethyl acetate. The combined extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by reverse phase silica gel chromatography, eluting with water-acetonitrile (gradient, 0:100-80:20) to give 0.046 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-benzamide (I-112) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | 0.1 mmole, 0.045 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.110 mmole, 0.042 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | ethyldiisopropyl amine | 0.300 mmole, 0.052 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(1-methyl-pyrrolidin-2-yl)-ethylamine | 0.12 mmole, 0.015 g | CN1C(CCC1)CCN | C7H16N2
solvent | water | 10 mL | O | H2O
solvent | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-benzamide | 0.046 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NCCC1N(CCC1)C)C=C2)OC | C28H37F2N7O3
